Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
dysarthria, hand weakness
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Patient is ___ man with a past medical history of
hypertension who presented to OSH with expressive aphasia and
right hand weakness thought to be due to left basal ganglia
stroke transferred to ___ for further care. 
Briefly, pt reports he was in his usual state of health when at
circa 1000 on the day of admission he noticed that he had 
trouble
with his language. He states he was reading the newspaper and
while doing so he noticed that although he was able to read and
comprehend he was not able to formulate any words. Unclear if
dysarthria versus aphasia. He thought this was strange. He also
noticed that his right hand felt clumsy and numb and he was not
able to pick up a coin etc. He went to lay down and hoped it
would improve. He had a business meeting at 1300 so he got up 
and
left for his meeting. he was supposed to give a speech during
this meeting, so just prior to this meeting he tried practicing
his speech when he noticed that he still couldn't talk again
unclear if dysarthria versus aphasia. He said he knew what he
wanted to say and he understood but he was not able to get words
out. He went to an OSH ED where a CT head was performed and read
as "left parietal infarct versus chronic small vessel disease.
Small left basal ganglia infarct with hemorrhagic conversion". 
He
also underwent CTA head and neck which was read as "High-grade
stenosis at the origin of the left A1 and origin of the left MCA
with resumption of flow distally. No evidence of large vessel
occlusion elsewhere. 80% diameter stenosis of the proximal right
cervical ICA. 20% diameter stenosis of breath small left ICA."

He was subsequently was transferred to ___ for further eval. 
Here his speech had much improved and he almost felt back to
normal. He denied any other associated symptoms. He never had
this happen before. he has no know hx of stroke or seizure. 
There
was no migraine. 
A few hours later his family arrived and reported that when they
initially arrived at ___ his speech was completely back to
normal, however, after an hour he appeared to be slurring his
words again. Head of bed flat and IVF was recommended. 

 
ROS: 10 point ROS reviewed as in HPI

 
Past Medical History:
Hypertension
HLD
 
Social History:
___
Family History:
Family hx of CAD, but no family hx of seizure or stroke
 
Physical Exam:
ADMISSION PHYSICAL EXAM
========================
Vitals: T97.4, P 64, BP 184/94 RR16 Spo296% RA 
- General: Awake, cooperative, NAD.
- HEENT: NC/AT
- Neck: Supple
- Pulmonary: no increased WOB
- Cardiac: well perfused 
- Abdomen: soft, nontender, nondistended
- Extremities: no edema, pulses palpated
- Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were intermittent 
paraphasic
errors. Pt was able to name both high and low frequency objects. 

Able to read without difficulty. Speech was dysarthric. Able to
follow both midline and appendicular commands. There was no
evidence of apraxia or neglect.

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 3 to 2mm and brisk. VFF to confrontation. 
III, IV, VI: EOMI without nystagmus. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.

  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___ 
L  5    ___   ___  5   5    5  5     5     5   
R  5    ___   ___  5   5    5  5     5     5    

-DTRs:  
       [Bic] [Tri] [___] [Quad] 
     L  2+    2+     2+      2+       
     R  2+    2+     2+      2+         
Plantar response flexor bilaterally. 

-Sensory: No deficits to light touch, pinprick throughout. No
extinction to DSS.

-Coordination: No intention tremor. No dysmetria on FNF 
bilaterally.

-Gait: Deferred

DISCHARGE PHYSICAL EXAM
===========================
- General: Awake, cooperative, NAD.
- HEENT: NC/AT
- Neck: Supple
- Pulmonary: no increased WOB
- Cardiac: well perfused 
- Abdomen: soft, nontender, nondistended
- Extremities: no edema, pulses palpated
- Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Language is fluent with intact repetition 
and
comprehension. Normal prosody. No paraphasic errors. No 
dysarthria. Pt was able Able to follow both midline and 
appendicular commands. There was no evidence of apraxia or 
neglect.

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 3 to 2mm and brisk. VFF to confrontation. 
III, IV, VI: EOMI without nystagmus. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.

  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___ 
L  5    ___   ___  5   5    5  5     5     5   
R  5    ___   ___  5   5    5  5     5     5    

-DTRs:  
       [Bic] [Tri] [___] [Quad] 
     L  2+    2+     2+      2+       
     R  2+    2+     2+      2+         
Plantar response flexor bilaterally. 

-Sensory: No deficits to light touch, pinprick throughout. No
extinction to DSS.

-Coordination: No intention tremor. No dysmetria on FNF 
bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm 
swing.  Some difficulty with tandem without. Imbalance with eyes 
closed on one foot.
 
Pertinent Results:
ADMISSION LABS
=================

___ 04:05PM BLOOD WBC-9.3 RBC-4.37* Hgb-15.2 Hct-41.9 
MCV-96 MCH-34.8* MCHC-36.3 RDW-12.0 RDWSD-42.0 Plt ___
___ 04:05PM BLOOD Neuts-53.5 ___ Monos-10.6 
Eos-0.6* Baso-0.5 Im ___ AbsNeut-4.94 AbsLymp-3.19 
AbsMono-0.98* AbsEos-0.06 AbsBaso-0.05
___ 04:05PM BLOOD Plt ___
___ 04:05PM BLOOD ___ PTT-28.7 ___
___ 04:05PM BLOOD Glucose-112* UreaN-8 Creat-0.7 Na-138 
K-4.0 Cl-99 HCO3-22 AnGap-17
___ 04:05PM BLOOD cTropnT-<0.01
___ 04:05PM BLOOD LtGrnHD-HOLD

IMAGING
=========
MR HEAD W/O CONTRAST Study Date of ___  
IMPRESSION:
1. 3 punctate foci of acute/early subacute infarcts, including 
precentral 
gyrus, and expected Wernicke's area. 
2. Globus pallidus abnormality bilaterally, differential 
considerations above. 
3. Chronic encephalomalacia bilateral frontal, anterior left 
temporal lobes, likely from prior trauma.

CT HEAD W/O CONTRAST Study Date of ___  
IMPRESSION:  
No evidence of intracranial hemorrhage.  Globus pallidus 
calcifications.

CT HEAD W/O CONTRAST Study Date of ___  
IMPRESSION: 
1. No acute intracranial abnormality on noncontrast head CT.  
Specifically no large territory infarct or intracranial 
hemorrhage. 
2. Confluent periventricular subcortical white matter 
hypodensities are 
nonspecific, but compatible with chronic microangiopathy in a 
patient this 
age, overall unchanged from prior examination allowing for 
technical 
differences. 

DISCHARGE LABS
================
___ 04:45AM BLOOD WBC-7.5 RBC-4.13* Hgb-14.6 Hct-39.5* 
MCV-96 MCH-35.4* MCHC-37.0 RDW-12.2 RDWSD-42.4 Plt ___
___ 04:45AM BLOOD Plt ___
___ 04:45AM BLOOD ___ PTT-26.4 ___
___ 04:45AM BLOOD Glucose-129* UreaN-9 Creat-0.7 Na-141 
K-3.7 Cl-100 HCO3-25 AnGap-16
___ 04:45AM BLOOD ALT-34 AST-39
___ 04:45AM BLOOD Albumin-4.0 Calcium-9.2 Phos-3.8 Mg-1.8 
Cholest-162
___ 04:45AM BLOOD %HbA1c-7.1* eAG-157*
___ 04:45AM BLOOD Triglyc-568* HDL-28* CHOL/HD-5.8 
LDLmeas-77
 
Brief Hospital Course:
Mr. ___ is a ___ man with a past medical history of 
hypertension, DM, dyslipidemia who presented with speech 
difficulty and right hand weakness, found to have multifocal 
cerebral infarcts. His medications were optimized and he was 
discharged home with neurologic follow-up.

#Acute multifocal ischemic stroke:
Presented with speech difficulty and right hand weakness with 
subsequent resolution of right hand weakness but continued mild 
dysarthria. Initially went to OSH where CT head was read as left 
basal ganglia infarct with hemorrhagic transformation. There, 
CTA demonstrated 80% diameter stenosis of the proximal right 
cervical ICA. Was transferred to ___ for further evaluation. 
Here, NIHSS was 1 (dysarthria). CT imaging showed small 
bilateral basal ganglia lacunes with globus pallidus 
calcifications, but no hemorrhage. The presumed hemorrhage is 
most likely contrast enhancement. Decision was made to repeat 
CTH to assess for possible evolution, repeat imaging was 
similar. CTA showed bilateral carotid bifurcation and aortic 
arch calcifications. MRI with multiple lesions bilaterally, more 
acute lesions on left side compared to right. Lesions were found 
in lateral left probably precentral gyrus, posterosuperior left 
temporal lobe, and left occipital lobe. MRI also showed moderate 
chronic small vessel ischemic changes. Etiology of infarcts 
multifactorial with likely small vessel disease as well as 
atheroembolic. Risk factors notable for A1C: 7.1, LDL 77, HDL 
28, Triglycerides of 568. Initiation of glycemic control 
deferred to outpatient setting. Initiated atorvastatin 40 mg, 
continued home fenofibrate. Counseled extensively regarding 
lifestyle modifications including healthy diet and exercise. 
Reports poor compliance to home aspirin 81 mg daily (sometimes 0 
times per week), thus did not initiated additional agent and 
counseled to take daily. Does not currently smoke. Prior to 
discharge, presenting symptoms resolved, neurologic exam was 
notable only for imbalance with eyes closed.

#Dyslipidemia:
Elevated HDL, ___ as above. Reports poor diet at home with high 
levels of saturated fat, egg yolks, and red meat. Initiated 
atorvastatin 40 mg daily. Continued home fenofibrate. Counseled 
regarding diet modification with a nutritonist. 

#HTN:
Continued home atenolol, lisinopril.

TRANSITIONAL ISSUES:
======================
[] continue to encourage medication compliance, particularly to 
aspirin which he reports taking minimally
[] initiated atorvastatin 40 mg daily
[] A1C found to be 7.1, does not report taking any DM 
medication, please consider metformin initiation
[] please consider nutritional consultation for diet 
modification given elevated ___. reports very poor diet with high 
saturated fats
[] continue to encourage lifestyle modification including daily 
exercise, diet modification as above
[] consider TTE as outpatient to further elucidate possibility 
of cardioembolic etiology for strokes

AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack 
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed () No. If no, reason why: 
2. DVT Prophylaxis administered? (x) Yes - () No. If no, why not 
(I.e. bleeding risk, hemorrhage, etc.) 
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No. If not, why not? (I.e. bleeding risk, 
hemorrhage, etc.)
4. LDL documented? (x) Yes (LDL = 77 ) - () No 
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 70) (x) Yes - () No [if LDL 
>70, reason not given: 
 [ ] Statin medication allergy 
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist 
 [ ] LDL-c less than 70 mg/dL 
6. Smoking cessation counseling given? () Yes - () No [reason 
(x) non-smoker - () unable to participate] 
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No 
8. Assessment for rehabilitation or rehab services considered? 
() Yes - (x) No. If no, why not? (I.e. patient at baseline 
functional status) at baseline functional status
9. Discharged on statin therapy? (x) Yes - () No [if LDL >70, 
reason not given: 
 [ ] Statin medication allergy 
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist 
 [ ] LDL-c less than 70 mg/dL 
10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - () Anticoagulation] - () No 
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - If no, why not (I.e. 
bleeding risk, etc.) (x) N/A 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Atenolol 100 mg PO DAILY 
3. Lisinopril 10 mg PO DAILY 
4. Fenofibrate 100 mg PO DAILY 

 
Discharge Medications:
1.  Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0
RX *atorvastatin 40 mg 1 tablet(s) by mouth DAILY Disp #*90 
Tablet Refills:*3 
2.  Aspirin 81 mg PO DAILY  
3.  Atenolol 100 mg PO DAILY  
4.  Fenofibrate 100 mg PO DAILY  
5.  Lisinopril 10 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
#Acute multifocal ischemic stroke
#HTN
#Dyslipidemia-hyper triglycerides

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

 You were hospitalized due to symptoms of difficulty speaking 
and weakness resulting from an ACUTE ISCHEMIC STROKE, a 
condition where a blood vessel providing oxygen and nutrients to 
the brain is blocked by a clot. The brain is the part of your 
body that controls and directs all the other parts of your body, 
so damage to the brain from being deprived of its blood supply 
can result in a variety of symptoms.

 Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:  
 1) high cholesterol
 2) high blood pressure
 3) diabetes

 We are changing your medications as follows:  
 1) we started you on "atorvastatin" to help lower your 
cholesterol

 Please take your other medications as prescribed.

 Please followup with Neurology and your primary care physician 
as below.

 If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
you  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body

 Sincerely,  
 Your ___ Neurology Team  

 
Followup Instructions:
___